US06825191B2
Step 1: Synthesis of 4-(4-chlorobenzoyl)-1-[2-(4-piperidinyl)ethyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on
150 mg (0.50 mmol) of 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on was dissolved in 10 ml of DMF. 24 mg (0.60 mmol) of sodium hydride was added to the obtained solution. After stirring at room temperature for 30 minutes, 184 g (0.60 mmol) of t-butyl 4-(2-((methylsulfonyl)oxy)ethyl)-1-piperidinecarboxylate was added to the obtained mixture, and they were stirred at 70° C. overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the obtained crude product was dissolved in 10 ml of 4N solution of hydrogen chloride in dioxane, and the obtained solution was stirred overnight. After the treatment with ethyl acetate as the extracting solvent by an ordinary method, the title compound was obtained.

reactant | 4-(4-chlorobenzoyl)-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | 0.50 mmol, 150 mg | ClC1=CC=C(C(=O)N2CC(NC3=C(C2)C=CC=C3)=O)C=C1 | C16H13ClN2O2
reactant | sodium hydride | 0.60 mmol, 24 mg | [H-].[Na+]
reactant | t-butyl 4-(2-((methylsulfonyl)oxy)ethyl)-1-piperidinecarboxylate | 0.60 mmol, 184 g | CS(=O)(=O)OCCC1CCN(CC1)C(=O)OC(C)(C)C | C13H25NO5S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-chlorobenzoyl)-1-[2-(4-piperidinyl)ethyl]-1,3,4,5-tetrahydrobenzo[e][1,4]diazepin-2-on | ClC1=CC=C(C(=O)N2CC(N(C3=C(C2)C=CC=C3)CCC3CCNCC3)=O)C=C1 | C23H26ClN3O2
